US09227978B2
2-(2-(4,5-Dichloro-2-iodophenoxy)pyridin-4-yloxy)ethanamine
The mixture of 2-(2-(2-(4,5-dichloro-2-iodophenoxy)pyridin-4-yloxy)ethyl)isoindoline-1,3-dione (120 mg, 0.22 mmol), N2H4.H2O (106 mg, 1.80 mmol) and EtOH (5 mL) was stirred at reflux for 1 h. The mixture was allowed to cool to room temperature and then concentrated in vacuo. The residue was slurried in DCM (5 mL) and MeOH (1 mL). The precipitate was removed by filtration, and the filtrate was concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (DCM/MeOH=10:1) to afford the desired product (35 mg, 38% yield).

reactant | 2-(2-(2-(4,5-dichloro-2-iodophenoxy)pyridin-4-yloxy)ethyl)isoindoline-1,3-dione | 0.22 mmol, 120 mg | ClC1=CC(=C(OC2=NC=CC(=C2)OCCN2C(C3=CC=CC=C3C2=O)=O)C=C1Cl)I | C21H13Cl2IN2O4
solvent | EtOH | 5 mL | CCO | C2H6O
product | 2-(2-(4,5-Dichloro-2-iodophenoxy)pyridin-4-yloxy)ethanamine | 35 mg, 38% yield | ClC1=CC(=C(OC2=NC=CC(=C2)OCCN)C=C1Cl)I | C13H11Cl2IN2O2
